US06924374B2
1-(3-Methanesulfonyl-4-methoxy-phenyl)-4-propyl-piperazine
Beginning with 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine and n-Pr-I, the title compound was recovered by the procedure described in Example 2;: MS m/z (rel. intensity, 70 eV)) 312 (M+, 38), 284 (17), 283 (bp), 70 (49), 56 (17).

reactant | 1-(3-Methanesulfonyl-4-methoxy-phenyl)-piperazine | CS(=O)(=O)C=1C=C(C=CC1OC)N1CCNCC1 | C12H18N2O3S
reactant | n-Pr-I | C(CC)I | C3H7I
product | 1-(3-Methanesulfonyl-4-methoxy-phenyl)-4-propyl-piperazine | CS(=O)(=O)C=1C=C(C=CC1OC)N1CCN(CC1)CCC | C15H24N2O3S
